US09120812B2
10 g of 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid (41.83 mmol) are placed in 61 ml of thionyl chloride (836.54 mmol) with stirring. After 18 hours at 80° C., the thionyl chloride is evaporated off and the residue is taken up twice with 15 ml of toluene and concentrated to give 10.77 g of 4,6-dichloro-2-methylsulfanylpyrimidine-5-carbonyl chloride.

reactant | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid | 41.83 mmol, 10 g | ClC1=NC(=NC(=C1C(=O)O)Cl)SC | C6H4Cl2N2O2S
reactant | thionyl chloride | 836.54 mmol, 61 ml | S(=O)(Cl)Cl | Cl2OS
product | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carbonyl chloride | 10.77 g | ClC1=NC(=NC(=C1C(=O)Cl)Cl)SC | C6H3Cl3N2OS
